US05385917
Preparation of 3-dicyclohexylmethoxybenzoic acid
To a solution of 3-hydroxybenzoic acid (1.61 g, 8.2 mmol), dicyclohexylmethanol (1.61 g, 8.2 mmol), triphenylphosphine (2.05 g, 7.82 mmol) and dioxane (35 ml) was added diethyl azodicarboxylate (1.41 ml, 8.94 mmol), and the resultant mixture was refluxed for 3 days. The reaction mixture was allowed to warm up to room temperature, poured into chilled water and extracted with diethyl ether. The organic layer was concentrated, and the residue was dissolved in a mixture of methanol (20 ml), tetrahydrofuran (6.5 ml) and water (2.0 ml), mixed with potassium hydroxide (1.16 g) and stirred for 2 hours. The mixture was poured into chilled water, acidified, and extracted with ethyl acetate. The organic layer was concentrated, and the resultant residue was recrystallized from hexane to give the titled compound (0.43 g, yield 18%).

reactant | 3-hydroxybenzoic acid | 8.2 mmol, 1.61 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | dicyclohexylmethanol | 8.2 mmol, 1.61 g | C1(CCCCC1)C(O)C1CCCCC1 | C13H24O
reactant | triphenylphosphine | 7.82 mmol, 2.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 8.94 mmol, 1.41 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | water | O | H2O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 3-dicyclohexylmethoxybenzoic acid | 0.43 g, yield 18% | C1(CCCCC1)C(OC=1C=C(C(=O)O)C=CC1)C1CCCCC1 | C20H28O3
